US08133995B2
Step 1: Preparation of 1H-pyrrole-2,4-dicarbonitrile
To a solution of ACN (15 mL) was added pyrrole (1.03 mL, 14.9 mmol) which was cooled in an ice/salt bath. Chlorosulfonyl isocyanate (2.73 mL, 31.3 mmol) was diluted in ACN (5 mL) and then added to the reaction dropwise over the following 30 min. The ice/salt bath was removed and the solution was allowed to warm to rt over the next 1.5 h. The solution was then cooled in an ice/salt bath and DMF (5.00 mL, 65.0 mmol) was slowly added via an addition funnel. The solution was allowed to slowly warm to rt over 17 h. The solution was cooled in an ice/salt bath and aq 1N NaOH (50 mL) was added followed by EtOAc (50 mL). The solution was transferred to a separatory funnel, and the organic layer was isolated and the aqueous layer was back extracted with EtOAc (2×). The collected organic was washed with aq saturated NaHCO3 followed by H2O (100 mL). The aqueous layers were back extracted with EtOAc (2×50 mL). The combined organic layers were collected, dried (MgSO4), concentrated onto silica gel, and purified by column chromatography (9:1 v/v CH2Cl2-EtOAc) to afford 1.28 g of the above compound as a white solid (10.9 mmol, yield 73%). 1H-NMR (DMSO-d6) δ 13.29 (br s, 1H), 8.00 (s, 1H), 7.49 (s, 1H); LCMS RT=1.65 min.

reactant | pyrrole | 14.9 mmol, 1.03 mL | N1C=CC=C1 | C4H5N
reactant | Chlorosulfonyl isocyanate | 31.3 mmol, 2.73 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | DMF | 65.0 mmol, 5.00 mL | CN(C)C=O | C3H7NO
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | ACN | 5 mL | C(C)#N | C2H3N
solvent | ACN | 15 mL | C(C)#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1H-pyrrole-2,4-dicarbonitrile | 10.9 mmol, 1.28 g, yield 73% | N1C(=CC(=C1)C#N)C#N | C6H3N3
